US06528657B2
(1) Synthesis of N-(2-chloroethyl)carbazole
17.9 g (107 mmol) of carbazole and 500 ml of acetone as solvent were placed in a 1000 ml four-necked flask with a mechanical stirrer and bulb-shaped cooler. To this was added an aqueous solution prepared from 22.0 g (93.7 mmol)of 2-chloroethyl-p-toluene sulfonate, 12.5 g of sodium hydroxide and 9.2 ml of water. The resultant product was heated to 60° C. in a silicone oil bath, and subjected to the reaction for 20 hours. After the reaction was completed, the product was cooled to the ambient temperature. The precipitated solid was subjected to suction filtration with a glass filter. The resultant liquid was concentrated in an evaporator and dried under vacuum to obtain a brown solid, which was recrystallized in the presence of ligroin to obtain 9.3 g of a white crystal.

reactant | carbazole | 107 mmol, 17.9 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 2-chloroethyl-p-toluene sulfonate | 93.7 mmol, 22.0 g | ClCCOS(=O)(=O)C1=CC=C(C=C1)C | C9H11ClO3S
reactant | sodium hydroxide | 12.5 g | [OH-].[Na+]
reactant | water | 9.2 ml | O | H2O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | N-(2-chloroethyl)carbazole | 9.3 g | ClCCN1C2=CC=CC=C2C=2C=CC=CC12 | C14H12ClN
